US05998433
a) Synthesis of 1-(2-ethylmethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one
To a solution of 0.400 g (1.345 mmol) of 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one in 20 ml of acetic acid, 0.14 ml (1.6 mmol) of N-Ethylmethylamine and 0.13 9 (1.6 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1 hour. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | 1.345 mmol, 0.400 g | O1C=CC2=C1CN(CC2)C(CCCCCC2=CC=CC=C2)=O | C19H23NO2
reactant | N-Ethylmethylamine | 1.6 mmol, 0.14 ml | C(C)NC | C3H9N
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(2-ethylmethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | C(C)C1=C(C2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1)CNC | C23H32N2O2
